### PR TITLE
[Merged by Bors] - chore(Data/Nat/Digits): rename `digits_len` to `digits_length`

### PR DESCRIPTION
**Pull request by KryptosAI**
Rename `Nat.digits_len` to `Nat.length_digits` for consistency with the mathlib naming convention — the statement is about `List.length (Nat.digits b n)`, so `length_digits` follows the standard projection-first pattern.

Also renames:
- `digits_len_le_digits_len_succ` → `length_digits_le_length_digits_succ`
- `le_digits_len_le` → `le_length_digits_le`

Deprecated aliases are added for backwards compatibility. Downstream files (e.g. `Ostrowski.lean`) are left unchanged since the deprecated aliases handle the transition.

Addresses the `Nat.digits_len` item in #21584.

## AI disclosure

I used Claude Code to explore the codebase (finding references, checking naming conventions) and to draft the PR description. I also used it to help with mechanical tasks like updating references across files and fixing lint issues. I reviewed and understand all changes — these are straightforward renames with deprecated aliases.

### CODE REVIEW

File: Mathlib/Data/Nat/Digits/Lemmas.lean [hunk 1]
```diff
@@ -50,7 +50,7 @@ theorem ofDigits_eq_sum_mapIdx (b : ℕ) (L : List ℕ) :
 This section contains various lemmas of properties relating to `digits` and `ofDigits`.
 -/
 
-theorem digits_len (b n : ℕ) (hb : 1 < b) (hn : n ≠ 0) : (b.digits n).length = b.log n + 1 := by
+theorem digits_length (b n : ℕ) (hb : 1 < b) (hn : n ≠ 0) : (b.digits n).length = b.log n + 1 := by
```
Comment (plp127) [inline Mathlib/Data/Nat/Digits/Lemmas.lean]: This should actually be `length_digits`, since it's `List.length (Nat.digits b n)`.
```suggestion
theorem length_digits (b n : ℕ) (hb : 1 < b) (hn : n ≠ 0) : (b.digits n).length = b.log n + 1 := by
```

Comment (KryptosAI) [reply Mathlib/Data/Nat/Digits/Lemmas.lean]: Good catch, thanks! Updated to `length_digits` (and cascaded to `length_digits_le_length_digits_succ` and `le_length_digits_le`) in 958844e.

File: Mathlib/NumberTheory/Ostrowski.lean [hunk 2]
```diff
@@ -13,7 +13,7 @@ public import Mathlib.Analysis.SpecialFunctions.Pow.Continuity
 public import Mathlib.NumberTheory.Padics.PadicNorm
 
 /-!
-# Ostrowski’s Theorem
+# Ostrowski's Theorem
```
Comment (eric-wieser) [inline Mathlib/NumberTheory/Ostrowski.lean]: This change is out of scope, please revert it

**Review by eric-wieser — COMMENTED** [review]
Please disclose your use of AI in this PR' your PR description was certainly not written directly by a human into GitHub!

File: Mathlib/NumberTheory/Ostrowski.lean (hunk 2 above)
Comment (KryptosAI) [reply Mathlib/NumberTheory/Ostrowski.lean]: Reverted in 08c132d. The deprecated alias handles it — thanks for the catch.
